US07211573B2
c) 2-Methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid
To a solution of 1.8 g (6.5 mmol) 2-Methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid ethyl ester in 40 ml of tetrahydrofurane, 20 ml of water and 1.09 g (26 mmol) of lithium hydroxide were added and the mixture was stirred overnight at room temperature. After concentration in vacuo water (50 ml) was added and the mixture was extracted with dichloromethane (three times 30 ml). The aqueous phase was acidified with 8 N hydrochloric acid and extracted with dichloromethane (three times 30 ml).

reactant | 2-Methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid ethyl ester | 6.5 mmol, 1.8 g | C(C)OC(C(C(=O)NCC(C(F)(F)F)(F)F)C)=O | C9H12F5NO3
reactant | lithium hydroxide | 26 mmol, 1.09 g | [OH-].[Li+]
solvent | tetrahydrofurane | 40 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 2-Methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | CC(C(=O)O)C(=O)NCC(C(F)(F)F)(F)F | C7H8F5NO3
